US04812406
Water phase treated with ethyl acetate extraction was adjusted to a pH value of 1.0 and again extracted with 100 ml×2 of ethyl acetate. After distilling away ethyl acetate from an extract under reduced pressure, 1.10 g of (S)-N-carbamoyl-α-methylleucine was obtained as a white crystal [α]D25 =+8.0 (c=0.5, 0.1N NaOH)). To 25 ml of a 2N aqueous solution of HCl was added 1.00 g of the thus obtained (S)-N-carbamoyl-α-methylleucine and a mixture was heated at 80° C. for 2 hours in order to cyclize to give 0.83 g of (S)-4-methyl-4-isobutylimidazolidine-2,5-dione as a white crystal.

reactant | HCl | Cl | ClH
reactant | (S)-N-carbamoyl-α-methylleucine | C(N)(=O)N[C@@](CC(C)C)(C(=O)O)C | C8H16N2O3
product | (S)-4-methyl-4-isobutylimidazolidine-2,5-dione | 0.83 g | C[C@]1(NC(NC1=O)=O)CC(C)C | C8H14N2O2
